US04892578
Using a method analogous to that of M. P. Cava et al., supra, a solution of 5.0 grams (0.061 mole) of sodium acetate in 50 mL of acetic anhydride was stirred while heating with a steam bath, and 1.5 grams (0.004 mole) of 2-[[2-chloro-4-[(3-carboxy-2-pyridinyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone was added in one portion. Upon completion of addition the reaction mixture was heated with the steam bath for an additional 30 minutes. The reaction mixture was poured into 500 mL of ice-water, and the resultant solid was collected by filtration. The solid was recrystallized from acetone-water to yield 0.45 gram of 2-[[2-chloro-4-(pyrrolo[3,4-b]pyridine-5,7-dione-6-yl)phenyl]-methyl]-4,4-dimethyl-3-isoxazolidinone; m.p. 139°-141° C.

reactant | sodium acetate | 0.061 mole, 5.0 grams | C(C)(=O)[O-].[Na+]
reactant | 2-[[2-chloro-4-[(3-carboxy-2-pyridinyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone | 0.004 mole, 1.5 grams | ClC1=C(C=CC(=C1)NC(=O)C1=NC=CC=C1C(=O)O)CN1OCC(C1=O)(C)C | C19H18ClN3O5
solvent | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[[2-chloro-4-(pyrrolo[3,4-b]pyridine-5,7-dione-6-yl)phenyl]-methyl]-4,4-dimethyl-3-isoxazolidinone | 0.45 gram | ClC1=C(C=CC(=C1)N1C(C2=NC=CC=C2C1=O)=O)CN1OCC(C1=O)(C)C | C19H16ClN3O4
